US06262045B1
2.3. 8-Chloro-1-(hydroxymethyl)-5-methyl-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one
A solution of 17.2 g (47 mmol) of methyl 8-chloro-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-carboxylate, of 8.7 g (230 mmol) of sodium borohydride and of 9.4 ml (230 mmol) of methanol in 300 ml of tetrahydrofuran is heated at reflux for 4 h. The mixture is cooled and poured onto a stirred solution of 100 ml of 2N hydrochloric acid and 100 ml of dichloromethane. The precipitate is collected by filtration, washed with water and dichloromethane and dried under reduced pressure. 15 g (44 mmol) of solid are obtained.

reactant | methyl 8-chloro-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-carboxylate | 47 mmol, 17.2 g | ClC1=CC=2C3=C(N(C2C=C1)C)C(N(N=C3C(=O)OC)C3=CC=CC=C3)=O | C19H14ClN3O3
reactant | sodium borohydride | 230 mmol, 8.7 g | [BH4-].[Na+]
reactant | methanol | 230 mmol, 9.4 ml | CO | CH4O
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 8-Chloro-1-(hydroxymethyl)-5-methyl-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one | 44 mmol, 15 g | ClC1=CC=2C3=C(N(C2C=C1)C)C(N(N=C3CO)C3=CC=CC=C3)=O | C18H14ClN3O2
